### PR TITLE
EvAug cuts out states; progress on PossibilisticNI

### PR DESCRIPTION
**Pull request by aferr**
The EvAug semantics is refactored so that it no longer is a state ->
trace -> state -> trace -> Prop relation but instead just a trace ->
trace -> Prop relation. This removes the need to have various
propositions about the states and traces involved in the step relation
agreeing. This also updates the statement of possibilistic NI and the
single step theorem. In the process, some problems with both of those
theorems are fixed. There is also some progress on the proof
for possibilistic NI. It is mostly done aside from some smaller lemmas
that I think are true but are admitted (the proof of the single-step
theorem is also still admitted).

# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [x] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 1]
```diff
@@ -53,34 +54,107 @@ https://www.cs.cornell.edu/andru/papers/csfw03.pdf
     ***
 *)
 
-Definition conjecture_possibilistic_ni := forall ell s11 s21 s1n t1n,
-    (state_low_eq ell s11 s21) /\
-    (step_system_ev_multi s11 [] s1n t1n) ->
-    (exists s2n t2n,
-        (step_system_ev_multi s21 [] s2n t2n) /\
+Definition is_init(t: trace) := length t = 1.
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:57]: For clarification, 0 or 1?

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 2]
```diff
@@ -53,34 +54,107 @@ https://www.cs.cornell.edu/andru/papers/csfw03.pdf
...
+    step_system_ev_multi t1 t2 ->
+    step_system_ev_multi t2 t3 ->
+    step_system_ev_multi t1 t3.
+Proof.
+Admitted.
+
 Theorem possibilistic_ni: conjecture_possibilistic_ni. Proof.
 unfold conjecture_possibilistic_ni.
-intros ell s11 s21 s1n t1n [H1 H2].
+intros ell t1_init t2_init t1n [H1 [H2 [H3 H4]]].
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:125]: One of my suggestion in the proof is... using meaningful names for hypotheses instead of using Hn if it is not too much bothersome.

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 3]
```diff
@@ -53,34 +54,107 @@ https://www.cs.cornell.edu/andru/papers/csfw03.pdf
...
-        (trace_low_eq ell t12 t22)).
+Theorem possibilistic_ni_1step: forall ell t1 t2 t1',
+    (trace_low_eq ell t1 t2) ->
+    (step_system_ev t1 t1') ->
+    (exists t2',
+        (step_system_ev t2 t2') /\
+        (trace_low_eq ell t1' t2')).
 Admitted. (* NOTE: work in progress *)
 
+Theorem app_emp: forall {T} (x: T) l,
```
Comment (jieungkim) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:76]: cons_not_nil?  (By referring the convention in https://coq.inria.fr/library/Coq.Lists.List.html  - app_cons_not_nil).

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:57]: It's actually 1. It was effectively 0 before because the initial state was always "[]", but really the transition relation can't take a step from the empty state! The initial trace has to be a trace including just one state.

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 2 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v]: This is done now in the latest commit.

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 3 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v]: That doesn't exactly work, but nil_cons almost does.

I now have nil_cons_rev as a separate theorem because this is needed twice. This theorem seems inelegant to have though. Is there a way to get rid of it?

Actually, if you have time can you take a look at the proof of t_upd_mono_nil? There is one last proof obligation that I can't see how to prove (there is a line with "admit"), but it seems almost like something that should be in a standard library. I also can't find it.

Comment (jieungkim) [reply experimental/ni_coq/vfiles/PossibilisticNI.v]: I am sorry. but, I couldn't find "t_upd_mono_nil" in my current local repo. Could you let me know where it is?

Comment (jieungkim) [reply experimental/ni_coq/vfiles/PossibilisticNI.v]: Please add

" destruct p; reflexivity."

and let me know if it is working in your side as well.

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:57]: Resolving, but unresolve if you want to.

Comment (jieungkim) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:57]: Thanks for the comment. I understood that :D
